US09428469B2
2-bromo-1-chloro-5-isothiocyanato-3-(trifluoromethyl)benzene
To a suspension of 4-bromo-3-chloro-5-(trifluoromethyl)aniline (15 g, 54.7 mmol, Eq: 1.00) in dichloromethane (13.2 g, 10.0 ml, 155 mmol, Eq: 25.3) at 0, was added 1,1′-thiocarbonyldiimidazole (11.7 g, 65.6 mmol, Eq: 1.2) The reaction was gradually warmed to room temperature and stirred overnight. The reaction was concentrated and chromatographed (220 g Redisep, 5 to 15% dichloromethane/hexane) to give 13.84 g (80%) pale yellow oil.

reactant | 4-bromo-3-chloro-5-(trifluoromethyl)aniline | 54.7 mmol, 15 g | BrC1=C(C=C(N)C=C1C(F)(F)F)Cl | C7H4BrClF3N
reactant | dichloromethane | 155 mmol, 10.0 ml, 13.2 g | ClCCl | CH2Cl2
reactant | 1,1′-thiocarbonyldiimidazole | 65.6 mmol, 11.7 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
product | 2-bromo-1-chloro-5-isothiocyanato-3-(trifluoromethyl)benzene | BrC1=C(C=C(C=C1C(F)(F)F)N=C=S)Cl | C8H2BrClF3NS
